US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylpyrazine-2-carboxamide (280 mg, 0.800 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (480 mg, 2.40 mmol) in n-BuOH (3 mL) was processed as described in Example 62, Step B, to provide crude (R)-tert-butyl 1-(5-bromo-3-(5-methylpyrazine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate without HPLC purification.

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylpyrazine-2-carboxamide | 0.800 mmol, 280 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC=C(N=C2)C)F | C13H9BrFN5O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.40 mmol, 480 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(5-methylpyrazine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC=C(N=C2)C)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C23H28BrN7O3
